Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
calf pain, abdominal pain
 
Major Surgical or Invasive Procedure:
diagnostic/therapeutic paracentesis ___

 
History of Present Illness:
___ with PMH of DM2, HCV, pancreatic cancer recently started on 
gemcitabine/abraxane, presenting with calf pain and abdominal 
pain.

The patient has had calf pain for about three months, but it has 
gotten worse in the last 3 days. He endorses bilateral calf pain 
but no swelling of his legs or feet.

The patient has worsening abdominal distension and discomfort. 
His abdominal pain is a feeling of pressure and is not 
particularly worse in any one location. He has never had a 
paracentesis before, but was scheduled to have one next week on 
___. 

He has some shortness of breath related to his abdominal 
swelling. Endorses poor appetite, worse in the last few days. 
Denies chest pain, subjective fever, nausea, vomiting, 
constipation, or diarrhea. Last BM was this morning. Denies 
urinary symptoms.

Today the patient's multicultural ___ called Dr. ___ 
requesting refill on pain medications.  She reported that the 
patient had new calf pain and worsening ___ edema, so he was 
referreed to the ED. 

Regarding the patient's pancreatic cancer, he was initially on 
FOLFIRINOX chemotherapy, but CA ___ doubling time has 
significantly increased in the last few week and there has been 
evidence of progression on imaging and clinically with abdominal 
distension, so the patient was recently started on 
gemcitabine/abraxane by Dr. ___ (C1D1 ___. 

In the ED, initial VS were: 
98.2 97 143/77 17 99% RA  
Imaging included:  
CXR
bedside ultrasound that showed ascites and no clear tappable 
pocket

Treatments received:
IV Morphine Sulfate 4 mg ___  
IVF 1000 mL NS 1000 mL ___  
IV CeftriaXONE 1 gm ___ 

On arrival to the floor, patient is comfortable. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
Mr. ___ is a ___ man with a history of
hepatitis C and adult onset DM2 (___) who was diagnosed with
metastatic pancreatic adenocarcinoma after he presented to his
PCP ___ ___ with upper abdominal pain, 20lb weight loss over a
few months and new jaundice. Bilirubin when admitted at ___ 
was
15.8 and RUQ U/S showed 3 x 4.8 x 2.7 cm pancreatic head mass
with massively dilated CBD to 17mm.  ERCP revealed an irregular
stricture in mid-CBD; sphincterotomy performed and plastic stent
placed.  Brushings positive for adenocarcinoma. CTA confirmed
large pancreatic head mass and a suspicious 9mm  liver lesion.
Biopsy of liver confirmed metastatic, moderately-differentiated
adenocarcinoma of pancreaticobiliary origin.  Non-targeted liver
biopsy showed Grade 2, Stage 2 chronic HCV.  

Started folfirinox ___, with good tolerance at full dose.
Imaging ___ stable/slightly worse in the liver, discordant
with improving ___ and good performance status. Therefore,
folfirinox continued. Onc Dx: Pancreatic adenocarcinoma
metastatic to the liver. Imaging in ___ shows stable 
disease,
consistent with continued decline in tumor marker.
 
PAST MEDICAL HISTORY: 
- Adult onset DM2 diagnosed in late ___ (A1c 8%)
- HTN/HLD
- Hepatitis C (genotype 6a/6b) - reported diagnosed in ___ ___
years ago and treated x 2 months
 
Social History:
___
Family History:
Father: oropharyngeal cancer 
Brother: Liver surgery for unknown reason
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 100.9 135/76 82 18 96RA
GENERAL: pleasant man in bed in NAD  
HEENT: NCAT, MMM, EOMI
CARDIAC: RRR, no m/r/g, normal S1S2
LUNG: Bibasilar crackles LLL > RLL, no wheezes
ABD: soft, distended but not firm, no focal tenderness, +BS, no 
rebound or guarding
EXT: no edema noted. No calf tenderness. +varicose veins
PULSES: DP pulses 2+ bilaterally  
NEURO: A&Ox3, strength and sensation grossly intact

DISCHARGE PHYSICAL EXAM:
VS: 98.8 123/74 94 18 97%RA
GENERAL: pleasant man in bed in NAD  
HEENT: NCAT, MMM, EOMI
CARDIAC: RRR, no m/r/g, normal S1S2
LUNG: Bibasilar crackles LLL > RLL, no wheezes
ABD: soft, distended but not firm, no focal tenderness, +BS, no 
rebound or guarding
EXT: no edema noted. No calf tenderness. +varicose veins
PULSES: DP pulses 2+ bilaterally  
NEURO: A&Ox3, strength and sensation grossly intact
 
Pertinent Results:
LABS ON ADMISSION:
___ 12:15PM   WBC-8.8 RBC-3.65* HGB-7.1* HCT-22.3* MCV-61* 
MCH-19.5* MCHC-31.8* RDW-16.6* RDWSD-35.5
___ 12:15PM   NEUTS-95.8* LYMPHS-2.3* MONOS-1.1* EOS-0.0* 
BASOS-0.1 IM ___ AbsNeut-8.46* AbsLymp-0.20* AbsMono-0.10* 
AbsEos-0.00* AbsBaso-0.01
___ 12:15PM   PLT SMR-VERY LOW PLT COUNT-79*
___ 12:15PM   ___ PTT-28.3 ___
___ 12:15PM   GLUCOSE-279* UREA N-15 CREAT-0.8 SODIUM-126* 
POTASSIUM-4.6 CHLORIDE-94* TOTAL CO2-24 ANION GAP-13
___ 12:15PM   ALT(SGPT)-38 AST(SGOT)-58* ALK PHOS-586* TOT 
BILI-2.1* DIR BILI-1.2* INDIR BIL-0.9
___ 12:15PM   LIPASE-7
___ 12:15PM   ALBUMIN-2.7*
___ 12:23PM   LACTATE-2.5*
___ 08:00PM   RET AUT-0.3* ABS RET-0.01*
___ 08:00PM   HAPTOGLOB-211*

LABS ON DISCHARGE:
___ 05:33AM BLOOD WBC-13.0* RBC-3.44* Hgb-7.0* Hct-21.5* 
MCV-63* MCH-20.3* MCHC-32.6 RDW-18.5* RDWSD-39.2 Plt Ct-65*
___ 05:33AM BLOOD Glucose-221* UreaN-14 Creat-0.7 Na-127* 
K-3.8 Cl-96 HCO3-24 AnGap-11
___ 05:33AM BLOOD ALT-29 AST-37 LD(LDH)-273* AlkPhos-543* 
TotBili-1.1
___ 05:33AM BLOOD Calcium-7.6* Phos-2.0* Mg-2.0

ASCITES LABS:
___ 11:28AM ASCITES WBC-2125* RBC-595* Polys-50* Lymphs-24* 
Monos-6* Mesothe-2* Macroph-18*
___ 11:28AM ASCITES TotPro-2.1 Amylase-1 Albumin-LESS THAN 

MICROBIOLOGY: 
Peritoneal fluid Cx ___: gram stain no organisms, cultures 
prelim no growth
Urine culture ___: no growth
Flu swab ___: negative
BCx ___: pending

IMAGING:
CT chest with contrast ___: pending at time of discharge, no 
acute findings per wet read by radiologist.

Diagnostic/therapeutic paracentesis ___:
Technically successful ultrasound-guided diagnostic and 
therapeutic 
paracentesis yielding 1.0 L straw-colored ascitic fluid. 

Abdominal ultrasound ___:
1.  Thrombus in the main and right portal veins, as seen on 
prior CT. 
Prominent venous collaterals. 
2.  Partly distended gallbladder with sludge and mild wall 
thickening. Clinical correlation is recommended. 
3.  Expected pneumobilia in the presence of a CBD stent. 
4.  Known pancreatic mass is better assessed on prior CT. 
5.  Moderate volume ascites. 
6. Splenomegaly. 

LENIs ___:
Thrombus in the right deep femoral vein, left lesser saphenous 
vein near the junction with the popliteal vein, and bilateral 
gastrocnemius veins. 
  
CXR ___:
Bibasilar airspace opacities may reflect atelectasis, but 
infection or aspiration cannot be excluded. 
 
Brief Hospital Course:
___ with PMH of DM2, HCV, pancreatic cancer, presenting with 
worsening calf pain and abdominal pain after starting 
gemcitabine/abraxane three days ago.

#Abdominal pain: Patient had worsening pressure-like abdominal 
pain on admission. The most likely cause of the patient's pain 
is his increasing ascites from his pancreatic cancer. He had a 
soft but distended abdomen on physical exam. Ascites was seen on 
bedside ultrasound in the ED but they were unable to find a 
pocket to tap. The patient had never had a paracentesis before 
but he was scheduled for one as an outpatient next ___. 
Though the patient denied subjective fevers, there was concern 
for an infectious process as the patient was febrile to 100.8 
when he arrived to the floor. There is also concern for a 
biliary process as his bilirubin is 2.1 up from 1.0 three days 
ago, but he has no right upper quadrant tenderness on exam. His 
pain could be an adverse effect of his gemcitabine/abraxane, 
which he began three days prior to admission. 

The patient's abdominal ultrasound on ___ showed a known 
portal venous thrombosis. The patient had a diagnostic and 
therapeutic paracentesis on ___ where one liter of fluid was 
removed. His abdomen felt somewhat better after. 

#Fever/healthcare-associated pneumonia: Though the patient 
denied subjective fevers, the patient was febrile to 100.8 when 
he arrived to the floor. Infection or aspiration could not be 
ruled out on his CXR in the ED. Atelectasis was also a possible 
cause. There was also concern for an intra-abdominal cause of 
his fever given his increasing abdominal pain, but he had no 
localizing findings on physical exam. The patient's flu swab was 
negative. A urine culture was negative. Blood cultrues were 
drawn and pending at the time of discharge.

Of note, the patient had elevated WBCs in his ascites from his 
paracentesis. The patient had one dose of empiric ceftriaxone in 
the ED. Given the patient's CXR findings, we started the patient 
on levofloxacin ___ to cover community-acquired pneumonia 
with some HCAP coverage given that the patient has had recent 
chemotherapy. We did not give further coverage for his elevated 
ascites WBC given our low suspicion for intra-abdominal 
infection. The patient was discharged on a 5-day course of 
levofloxacin.

#DVT/Calf pain: On admission the patient complained of chronic 
calf pain that had gotten worse in the prior three days. This 
could have been be an adverse effect of his 
gemcitabine/abraxane, which he began three days prior to 
admission. He had no swelling on exam. There was concern for 
DVT, especially given the patient's malignancy. The patient had 
LENIs on admission that showed bilateral DVTs. He was started on 
a heparin drip and converted to lovenox on ___. The patient 
was discharged with a prescription for lovenox and received 
lovenox training with a ___ interpreter present prior to 
discharge on ___. Of note, the patient already injects his 
insulin and filgrastim at home.

#Anemia: The patient's Hb was 7.1 on admission, down from 8.3 on 
___. There was low suspicion for active bleeding. Hemolysis 
was possible given elevated bilirubin. Anemia could also be 
related to his gemcitabine/abraxane. His haptoglobin was 211 
which suggested that he did not have gemcitabine-induced 
hemolysis. The patient was transfused 1 unit of pRBCs on two 
separate occasions, ___ and ___.

#Hyponatremia: Sodium is 126 on admission, down from 132 on 
___. Possibly due to generalized fluid overload. The 
patient's urine sodium was 77 and osmolality was 635, which 
suggested that he was volume replete. The patient's serum sodium 
remained 127 at discharge.

#Pancreatic cancer: Patient initially on FOLFIRINOX 
chemotherapy, but CA ___ doubling time has significantly 
increased in the weeks prior to admission and there had been 
evidence of progression on imaging and clinically with abdominal 
distension, so the patient was recently started on 
gemcitabine/abraxane by Dr. ___ (C1D1 ___. On the day of 
discharge the patient had a chest CT at the request of Dr. 
___ further staging. During this admission we continued 
the patient's home filgrastim and creon. We continued his home 
supportive medications of oxycodone, ondansetron, and 
prochlorperazine, and loperamide PRN. We also continued his home 
protonix. He was discharged with a follow-up appointment with 
Dr. ___ in the process of being arranged.

#T2DM: The patient has been followed by ___. His chemotherapy 
course has been complicated in the past by hyperglycemia 
requiring adjustments in his insulin regimen. The patient was 
continued on his home lantus 10U QHS and his metformin was held 
and replaced with an insulin sliding scale. He did have some 
hyperglycemia during this admission requiring an extra dose of 
insulin. He was discharged back on his home antidiabetic 
regimen.

***TRANSITIONAL ISSUES***
[ ]discharged on 5-day course of levofloxacin for presumed 
pneumonia/possible SBP d1 ___
[ ]follow-up blood and peritoneal fluid cultures
[ ]follow-up radiology read of staging CT done ___
[ ]check CBC for status of anemia (2u pRBC given while in 
hospital)
[ ]continued treatment of pancreatic cancer as per Dr. ___
[ ]adjust insulin dosing as needed

FULL CODE CONFIRMED
EMERGENCY CONTACT HCP: daughter ___ ___, son ___ 
___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Filgrastim 300 mcg SC Q24H 
2. Glargine 10 Units Bedtime
3. Creon ___ CAP PO TID W/MEALS 
4. LORazepam 0.5-1 mg PO Q6H:PRN nausea/insomnia 
5. MetFORMIN (Glucophage) 1000 mg PO DAILY 
6. Ondansetron 8 mg PO Q8H:PRN nausea 
7. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
8. Pantoprazole 40 mg PO Q24H 
9. Prochlorperazine 10 mg PO Q6H:PRN nausea 
10. LOPERamide ___ mg PO QID:PRN diarrhea 

 
Discharge Medications:
1. Enoxaparin Sodium 60 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 60 mg/0.6 mL 0.6 mL subcutaneous every 12 hours 
Disp #*60 Syringe Refills:*0
2. Creon ___ CAP PO TID W/MEALS 
3. Filgrastim 300 mcg SC Q24H 
4. Glargine 10 Units Bedtime
5. Ondansetron 8 mg PO Q8H:PRN nausea 
6. Pantoprazole 40 mg PO Q24H 
7. Prochlorperazine 10 mg PO Q6H:PRN nausea 
8. Levofloxacin 750 mg PO DAILY 
finish the entire course of this medication 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0
9. LOPERamide ___ mg PO QID:PRN diarrhea 
10. LORazepam 0.5-1 mg PO Q6H:PRN nausea/insomnia 
11. MetFORMIN (Glucophage) 1000 mg PO DAILY 
12. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every ___ hours Disp 
#*20 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
deep vein thrombosis
pneumonia
anemia
pancreatic cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to the hospital with pain in your legs and 
abdomen. We found that there were blood clots in your legs. We 
started you on a medication to treat the blood clots. This 
medication needs to be injected twice a day. We showed you how 
to do this before you went home.

You had a fever and your chest xray was concerning for a 
pneumonia, so we started you on antibiotics. We are giving you a 
prescription for antibiotics to continue after you go home. 
Please finish all the antibiotics even if you are feeling 
better.

We did a procedure to remove fluid from your belly and you felt 
better.

You had low blood counts, so we gave you two units of blood.

Dr. ___ will call you with a follow-up appointment.

It was a pleasure taking care of you.
-Your ___ Care Team

 
Followup Instructions:
___